US04721788
N-(2Hydroxyethyl)-4-carbamoylpiperidine
2-Chloroethanol (23.9 ml), potassium carbonate (82.0 g) and sodium iodide (4.5 g) were added to an ethanol solution (500 ml) of 4-carbamoylpiperidine (35 g), followed by refluxing for 20 hours. After allowing the reaction mixture to cool down to room temperature, it was filtered through Celite (trade mark). The filtrate was concentrated under reduced pressure. After washing the residue, it was dried to obtain 46.6 g of the desired product.

reactant | 2-Chloroethanol | 23.9 ml | ClCCO | C2H5ClO
reactant | potassium carbonate | 82.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 4.5 g | [I-].[Na+]
reactant | 4-carbamoylpiperidine | 35 g | C(N)(=O)C1CCNCC1 | C6H12N2O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | N-(2Hydroxyethyl)-4-carbamoylpiperidine | 46.6 g | OCCN1CCC(CC1)C(N)=O | C8H16N2O2
